US07754737B2
A stirred mixture of polyphosphoric acid (˜5 g) and chlorobenzene (8 mL) was heated at reflux and a solution of 1-(2,2-diethoxyethoxy)-2-bromobenzene (2.62 g, 9.0 mmol) in chlorobenzene (3 mL) was added dropwise over 10 min. The mixture was heated at reflux for 1.5 h. The mixture was allowed to cool to rt and 1 M aq NaOH (20 mL) was added, followed by ether (175 mL). The mixture was washed with water (2×20 mL) and brine (20 mL), and dried over MgSO4. Evaporation of the solvent left a residue which was purified by a chromatography on a 140-g silica cartridge eluted with hexanes and a 0-10% EtOAc in hexanes gradient. Appropriate fractions were pooled and concentrated to afford 7-bromobenzofuran (0.65 g, 38% from 2-bromophenol) as a clear colorless oil.

reactant | 1-(2,2-diethoxyethoxy)-2-bromobenzene | 9.0 mmol, 2.62 g | C(C)OC(COC1=C(C=CC=C1)Br)OCC | C12H17BrO3
reactant | NaOH | 1 M, 20 mL | [OH-].[Na+]
reactant | ether | 175 mL | CCOCC | C4H10O
solvent | chlorobenzene | 3 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 8 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 7-bromobenzofuran | 0.65 g, 38% | BrC1=CC=CC=2C=COC21 | C8H5BrO
